US05108485
Preparation of 3,6-Dihydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo[1,2-b:3,4-c']dipyrrole-2(1H)acetonitrile
Activated manganese dioxide (27.0 g, 0.31 0 mol) is added to a solution of 3,3a,4,5,6,8b-hexahydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo-[1,2-b:3,4-c']dipyrrole-2(1H)-acetonitrile (51.3 g, 0.167 mol) in chlorobenzene. The reaction mixture is stirred overnight at reflux temperature, cooled and filtered twice through diatomaceous earth with methylene chloride. The filtrate is concentrated in vacuo to a black oil which is flash chromatographed twice with methylene chloride then hexanes:methylene chloride to afford a yellow solid (5.50 g, 11.6%). Recrystallization from hexanes:methylene chloride afforded the title product, mp 123-°128° C.

reactant | 3,3a,4,5,6,8b-hexahydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo-[1,2-b:3,4-c']dipyrrole-2(1H)-acetonitrile | 0.167 mol, 51.3 g | C(C)(C)C(C#N)(N1C(C2C(C1=O)CCC=1N(C=CC12)C)=O)C | C17H21N3O2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
catalyst | manganese dioxide | 0 mol, 27.0 g | [O-2].[O-2].[Mn+4]
product | 3,6-Dihydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo[1,2-b:3,4-c']dipyrrole-2(1H)acetonitrile | 5.50 g, 11.6% | C(C)(C)C(C#N)(N1C(C2=C(C1=O)C=CC=1N(C=CC12)C)=O)C | C17H17N3O2
